US06982259B2
A mixture of imidazole (0.613 g, 8 mmol) and 3,6-dichloropyridazine (1.55 g, 10 mmol), K2CO3 (4.15 g) and DMF (15 mL) was heated at 70-80° C. overnight. After removal of DMF in vacuo, the residual solid was dissolved in CH2Cl2 (50 mL), washed with 1N Na2CO3 aq. solution, and dried (MgSO4). Separation using column chromatography (CH2Cl2/methanol 100:1) afforded 3-chloro-6-(imidazol-1-yl)pyridazine (1.2 g) as a white solid.

reactant | imidazole | 8 mmol, 0.613 g | N1C=NC=C1 | C3H4N2
reactant | 3,6-dichloropyridazine | 10 mmol, 1.55 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | K2CO3 | 4.15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 3-chloro-6-(imidazol-1-yl)pyridazine | 1.2 g | ClC=1N=NC(=CC1)N1C=NC=C1 | C7H5ClN4
